US07585875B2
To a mixture of 1.1 g (3.4 mmol) of 2-(5-(4-fluorophenyl)-3-oxopent-4-yn-2-yl)isoindoline-1,3-dione and 785 mg (3.4 mmol) of N-aminopyridinium iodide in 10 ml of acetonitrile was added dropwise 1.04 g of DBU in 5 ml of acetonitrile at 0° C. for 20 minutes under a nitrogen atmosphere. The reaction was stirred at RT overnight, and it was worked up with ethyl acetate and ammonium chloride to produce 2-(1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-1-oxopropan-2-yl)isoindoline-1,3-dione as a crude solid. The phthalimide intermediate was reacted with 500 μl of hydrazine hydrate at RT in ethanol overnight. After workup with ethyl acetate and ammonium chloride, 1 g of crude product was obtained. The crude product was purified by C18-reverse-phase preparative HPLC. Addition of dilute HCl to the fractions containing purified product followed by lyophilization furnished 110 mg of 2-amino-1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)propan-1-one hydrochloride. Compound 1052.

reactant | 2-(5-(4-fluorophenyl)-3-oxopent-4-yn-2-yl)isoindoline-1,3-dione | 3.4 mmol, 1.1 g | FC1=CC=C(C=C1)C#CC(C(C)N1C(C2=CC=CC=C2C1=O)=O)=O | C19H12FNO3
reactant | N-aminopyridinium iodide | 3.4 mmol, 785 mg | [I-].N[N+]1=CC=CC=C1
reactant | DBU | 1.04 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-1-oxopropan-2-yl)isoindoline-1,3-dione | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C(C)N1C(C2=CC=CC=C2C1=O)=O)=O | C24H16FN3O3
